US06936608B2
A mixture of 4-(5-bromo-2-fluorophenyl)pyridine (3.8 g, 15.1 mmol), potassium acetate (2.96 g, 30.1 mmol) and bis(pinacolato)diboron (4.21 g, 16.6 mmol) in 1,4-dioxane (50 ml) and dimethylsulfoxide (1 ml) was degassed with nitrogen for 1 h. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (370 mg, 0.5 mmol) was added and the mixture heated at 90° C. for 18 h. The reaction was cooled to ambient temperature, filtered and the filter-cake washed with diethyl ether. The filtrate was evaporated to dryness and the residue stirred with ice-cold 2 N sodium hydroxide (100 ml) for 20 min. The aqueous mixture was filtered and the filtrate washed with diethyl ether (2×75 ml). The organics were discarded and the aqueous phase cooled to 0° C. before lowering the pH to 8 by addition of 36% hydrochloric acid. The resulting solid was collected by filtration and triturated with diethyl ether to afford 4-fluoro-3-(pyridin-4-yl)benzeneboronic acid as a buff-coloured solid (1.51 g, 46%): 1H NMR (360 MHz, DMSO-d6) δ 7.34 (1H, dd, J 11, 8 Hz), 7.61 (2H, d, J 5 Hz), 7.88-7.92 (1H, m), 8.05 (1H, dd, J 8, 1 Hz), 8.26 (2H, s), 8.70 (2H, d, J 5 Hz); MS (ES+) m/z 218 [M+H]+. The aqueous filtrate was extracted with diethyl ether. The organic phase was washed with water, brine, dried (MgSO4), filtered and evaporated to afford 4-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine as a dark oil (1.28 g, 29%) that solidified on standing for a few days: 1H NMR (360 MHz, CDCl3) δ 1.36 (12H, s), 7.19 (1H, dd, J 11, 8 Hz), 7.50-7.53 (2H, m), 7.82-7.87 (1H, m), 7.93 (1H, dd, J 8, 1 Hz), 8.67 (2H, dd, J 4, 1 Hz); MS (ES+) m/z 300 [M+H]+.

reactant | 4-(5-bromo-2-fluorophenyl)pyridine | 15.1 mmol, 3.8 g | BrC=1C=CC(=C(C1)C1=CC=NC=C1)F | C11H7BrFN
reactant | potassium acetate | 30.1 mmol, 2.96 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 16.6 mmol, 4.21 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.5 mmol, 370 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 4-fluoro-3-(pyridin-4-yl)benzeneboronic acid | 1.51 g, 46% | FC1=C(C=C(C=C1)B(O)O)C1=CC=NC=C1 | C11H9BFNO2
